US06924278B2
Chloroacetyl chloride (14.0 ml) was added dropwise to a mixture of 2-benzylamino-2-methyl-1,3-propanediol (28.5 g), potassium carbonate (30.3 g) in dichloromethane (150 ml) and water (150 ml) at 0° C., and the whole was stirred at room temperature for 2 hours. The mixture was extracted with dichloromethane and the extract was washed successively with water, 1N hydrochloric acid and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in tert-butanol (400 ml) and the solution was added potassium tert-butoxide (16.38 g) portionwisely and the whole was refluxed for 30 minutes. After cooling, the solvent was removed by evaporation and ethyl acetate and water were added thereto. The organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of ethyl acetate and n-hexane (1:1) as an eluent to give 4-benzyl-5-hydroxymethyl-5-methyl-3-morpholinone (10.89 g).

reactant | Chloroacetyl chloride | 14.0 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-benzylamino-2-methyl-1,3-propanediol | 28.5 g | C(C1=CC=CC=C1)NC(CO)(CO)C | C11H17NO2
reactant | potassium carbonate | 30.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 150 ml | O | H2O
product | 4-benzyl-5-hydroxymethyl-5-methyl-3-morpholinone | 10.89 g | C(C1=CC=CC=C1)N1C(COCC1(C)CO)=O | C13H17NO3
